US07872031B2
A solution of 5,6,7,8-tetrahydro-4H-furo[3,2-d]azepine (2.88 mmol) in acetone (7.2 mL) and water (7.2 mL) is treated with NaHCO3 (5.76 mmol) and di-t-butyl dicarbonate (3.17 mmol) for one hour. The reaction is diluted with water (10 mL) and extracted with ethyl acetate (2×50 mL). The organic layer is dried, concentrated, and purified by silica chromatography (EtOAc/hexanes eluant) to give tert-butyl 4,5,7,8-tetrahydrofuro[3,2-d]azepine-6-carboxylate.

reactant | 5,6,7,8-tetrahydro-4H-furo[3,2-d]azepine | 2.88 mmol | O1C=CC=2CCNCCC21 | C8H11NO
reactant | NaHCO3 | 5.76 mmol | C(=O)(O)[O-].[Na+]
reactant | di-t-butyl dicarbonate | 3.17 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetone | 7.2 mL | CC(=O)C | C3H6O
solvent | water | 7.2 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | tert-butyl 4,5,7,8-tetrahydrofuro[3,2-d]azepine-6-carboxylate | O1C=CC=2CCN(CCC21)C(=O)OC(C)(C)C | C13H19NO3
